US09259426B2
Synthesis of 4-amino-6-(4-fluorophenyl)-quinazoline
This compound was synthesized from 4-chloro-6-(4-fluorophenyl)-quinazoline and a 7 N ammonia solution in methanol in 84%, using the procedure described for example 37. The product was characterized by its mass spectrum as follows: MS (m/z): 240 ([M+H]+, 100).

reactant | 4-chloro-6-(4-fluorophenyl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C1=CC=C(C=C1)F | C14H8ClFN2
reactant | ammonia | 7 N | N | H3N
solvent | methanol | CO | CH4O
product | 4-amino-6-(4-fluorophenyl)-quinazoline | NC1=NC=NC2=CC=C(C=C12)C1=CC=C(C=C1)F | C14H10FN3
